US05932642
A mixture consisting of 17 g (0.082 mol) of 2,4-di-tert-butylphenol, 4.8 g (0.041 mol) of tetrahydrothiopyran-4-one and 5 ml of acetic acid is melted together and is then saturated, with stirring, with hydrochloric acid gas at 40-45° C. After stirring for 12 hours at room temperature, the reaction mixture is diluted with toluene and washed with water, sodium chloride solution and sodium hydrogencarbonate solution. The organic phase is dried over magnesium sulfate and concentrated on a rotary-evaporator. The residue is crystallised from methanol, affording 9.2 g (74%) of 2,4-di-tert-butyl-6-(3,6-dihydro-2H-thiopyran-4-yl)phenol, m.p. 115-119° C. (compound (104), Table 1).

reactant | 2,4-di-tert-butylphenol | 0.082 mol, 17 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | tetrahydrothiopyran-4-one | 0.041 mol, 4.8 g | S1CCC(CC1)=O | C5H8OS
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,4-di-tert-butyl-6-(3,6-dihydro-2H-thiopyran-4-yl)phenol | 9.2 g, 74% | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C=1CCSCC1)O | C19H28OS
